US06265426B1
Dimethyl-[3-(5-phenyl-1H-[1,2,4]triazol-3-yl)-benzyl]-amine hydrochloride (1:1)
To a stirred ethanolic suspension of benzamidine hydrochloride salt (235 mg, 1.5 mmol, 1.5 eq.), was added 1.2N NaOEt in ethanol (1.7 ml, 2 eq.) over 3 minutes, the mixture was further stirred for 30 min. at r.t. To this was added 3-dimethylaminomethyl-benzoic acid hydrazide (193 mg, 1 mmol) in ethanol at 20° C. and the mixture heated to reflux for 24 hrs. Upon cooling the product mixture was filtered, solvent evaporated and residue subjected to preparative reversed-phase HPLC purification using a YMC ODS-AQ column (20×50 mm) and a (0.1% trifluoroacetic acid) water-acetonitrile gradient (25 ml/min. flow rate). The pure fractions were concentrated and the product obtained was converted to the hydrochloride salt by addition of excess 2N HCl/ether solution (1.0 ml) followed by solvent evaporation and high vacuum drying to afford the title compound (84 mg, 0.27 mmol, 27% yield) as a yellow foam. MS: m/e=279.4 (M+H+).

reactant | benzamidine hydrochloride salt | 1.5 mmol, 235 mg, 1.5 eq. | Cl.C(C1=CC=CC=C1)(=N)N
reactant | NaOEt | 1.2N | CC[O-].[Na+]
reactant | 3-dimethylaminomethyl-benzoic acid hydrazide | 1 mmol, 193 mg | CN(C)CC=1C=C(C(=O)NN)C=CC1 | C10H15N3O
reactant | HCl ether | 2N, 1.0 ml | Cl.CCOCC
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 1.7 ml, 2 eq. | C(C)O | C2H6O
product | Dimethyl-[3-(5-phenyl-1H-[1,2,4]triazol-3-yl)-benzyl]-amine hydrochloride | 0.27 mmol, 84 mg, 27% yield | Cl.CN(CC1=CC(=CC=C1)C1=NNC(=N1)C1=CC=CC=C1)C | InChI=1S/C17H18N4.ClH/c1-21(2)12-13-7-6-10-15(11-13)17-18-16(19-20-17)14-8-4-3-5-9-14;/h3-11H,12H2,1-2H3,(H,18,19,20);1H
